************************************************************************
* auCdl Netlist:
* 
* Library Name:  CAM
* Top Cell Name: 1r1w_new
* View Name:     schematic
* Netlisted on:  Mar  2 01:30:32 2010
************************************************************************

*.EQUATION
*.SCALE METER
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: CAM
* Cell Name:    1r1w_new
* View Name:    schematic
************************************************************************

.SUBCKT 1r1w_new W1_WL R1_WL
+ W1_BTL W1_BTLB R1_BTL R1_BTLB 
*.PININFO r1_btl:I r1_btlb:I r1_wl:I w1_btl:I w1_btlb:I w1_wl:I
MM160 r1_wl Dbar net109 gnd! NMOS_VTL W=180n L=50n m=1
MM96 net109 r1_btlb gnd! gnd! NMOS_VTL W=180n L=50n m=1
MM41 Dbar w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM40 w1_btl w1_wl D gnd! NMOS_VTL W=90n L=50n m=1
MM171 net0179 r1_btl gnd! gnd! NMOS_VTL W=180n L=50n m=1
MM170 r1_wl D net0179 gnd! NMOS_VTL W=180n L=50n m=1
MM1 D Dbar gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM0 gnd! D Dbar gnd! NMOS_VTL W=90n L=50n m=1
MM3 vdd! D Dbar vdd! PMOS_VTL W=180n L=50n m=1
MM2 D Dbar vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

