************************************************************************
* auCdl Netlist:
* 
* Library Name:  CAM
* Top Cell Name: 3r3w_new
* View Name:     schematic
* Netlisted on:  Mar  1 22:10:12 2010
************************************************************************

*.EQUATION
*.SCALE METER
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: CAM
* Cell Name:    3r3w_new
* View Name:    schematic
************************************************************************

.SUBCKT 3r3w_new W1_WL W2_WL W3_WL 
+ R1_WL R2_WL R3_WL 
+ W1_BTL W1_BTLB W2_BTL W2_BTLB W3_BTL W3_BTLB 
+ R1_BTL R1_BTLB R2_BTL R2_BTLB R3_BTL R3_BTLB 
*.PININFO r1_btl:I r1_btlb:I r1_wl:I r2_btl:I r2_btlb:I r2_wl:I r3_btl:I 
*.PININFO r3_btlb:I r3_wl:I w1_btl:I w1_btlb:I w1_wl:I w2_btl:I w2_btlb:I 
*.PININFO w2_wl:I w3_btl:I w3_btlb:I w3_wl:I
MM169 r2_wl D net0172 gnd! NMOS_VTL W=270n L=50n m=1
MM168 net0172 r2_btl gnd! gnd! NMOS_VTL W=270n L=50n m=1
MM167 net0177 r3_btl gnd! gnd! NMOS_VTL W=270n L=50n m=1
MM166 r3_wl D net0177 gnd! NMOS_VTL W=270n L=50n m=1
MM158 net0116 r2_btlb gnd! gnd! NMOS_VTL W=270n L=50n m=1
MM159 r2_wl Dbar net0116 gnd! NMOS_VTL W=270n L=50n m=1
MM160 r1_wl Dbar net109 gnd! NMOS_VTL W=270n L=50n m=1
MM96 net109 r1_btlb gnd! gnd! NMOS_VTL W=270n L=50n m=1
MM162 r3_wl Dbar net0117 gnd! NMOS_VTL W=270n L=50n m=1
MM161 net0117 r3_btlb gnd! gnd! NMOS_VTL W=270n L=50n m=1
MM41 Dbar w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM38 w3_btl w3_wl D gnd! NMOS_VTL W=90n L=50n m=1
MM43 Dbar w3_wl w3_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM42 Dbar w2_wl w2_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM40 w1_btl w1_wl D gnd! NMOS_VTL W=90n L=50n m=1
MM39 w2_btl w2_wl D gnd! NMOS_VTL W=90n L=50n m=1
MM171 net0179 r1_btl gnd! gnd! NMOS_VTL W=270n L=50n m=1
MM170 r1_wl D net0179 gnd! NMOS_VTL W=270n L=50n m=1
MM1 D Dbar gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM0 gnd! D Dbar gnd! NMOS_VTL W=90n L=50n m=1
MM3 vdd! D Dbar vdd! PMOS_VTL W=180n L=50n m=1
MM2 D Dbar vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

