************************************************************************
* auCdl Netlist:
* 
* Library Name:  CAM
* Top Cell Name: 7r7w_new
* View Name:     schematic
* Netlisted on:  Feb 27 19:55:44 2010
************************************************************************

*.EQUATION
*.SCALE METER
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: CAM
* Cell Name:    7r7w_new
* View Name:    schematic
************************************************************************

.SUBCKT 7r7w_new W1_WL W2_WL W3_WL W4_WL W5_WL W6_WL W7_WL 
+ R1_WL R2_WL R3_WL R4_WL R5_WL R6_WL R7_WL 
+ W1_BTL W1_BTLB W2_BTL W2_BTLB W3_BTL W3_BTLB W4_BTL W4_BTLB
+ W5_BTL W5_BTLB W6_BTL W6_BTLB W7_BTL W7_BTLB 
+ R1_BTL R1_BTLB R2_BTL R2_BTLB R3_BTL R3_BTLB R4_BTL R4_BTLB
+ R5_BTL R5_BTLB R6_BTL R6_BTLB R7_BTL R7_BTLB 
 
*.PININFO r1_btl:I r1_btlb:I r1_wl:I r2_btl:I r2_btlb:I r2_wl:I r3_btl:I 
*.PININFO r3_btlb:I r3_wl:I r4_btl:I r4_btlb:I r4_wl:I r5_btl:I r5_btlb:I 
*.PININFO r5_wl:I r6_btl:I r6_btlb:I r6_wl:I r7_btl:I r7_btlb:I r7_wl:I 
*.PININFO w1_btl:I w1_btlb:I w1_wl:I w2_btl:I w2_btlb:I w2_wl:I w3_btl:I 
*.PININFO w3_btlb:I w3_wl:I w4_btl:I w4_btlb:I w4_wl:I w5_btl:I w5_btlb:I 
*.PININFO w5_wl:I w6_btl:I w6_btlb:I w6_wl:I w7_btl:I w7_btlb:I w7_wl:I
MM155 r2_wl D net0172 gnd! NMOS_VTL W=360n L=50n
MM154 net0172 r2_btl gnd! gnd! NMOS_VTL W=360n L=50n
MM157 net0179 r1_btl gnd! gnd! NMOS_VTL W=360n L=50n
MM156 r1_wl D net0179 gnd! NMOS_VTL W=360n L=50n
MM163 w7_btl w7_wl D gnd! NMOS_VTL W=90n L=50n
MM128 net0116 r2_btlb gnd! gnd! NMOS_VTL W=360n L=50n
MM129 r2_wl Dbar net0116 gnd! NMOS_VTL W=360n L=50n
MM127 r1_wl Dbar net109 gnd! NMOS_VTL W=360n L=50n
MM96 net109 r1_btlb gnd! gnd! NMOS_VTL W=360n L=50n
MM136 net0131 r6_btlb gnd! gnd! NMOS_VTL W=360n L=50n
MM137 r6_wl Dbar net0131 gnd! NMOS_VTL W=360n L=50n
MM161 net0170 r7_btl gnd! gnd! NMOS_VTL W=360n L=50n
MM135 net098 r5_btlb gnd! gnd! NMOS_VTL W=360n L=50n
MM134 r5_wl Dbar net098 gnd! NMOS_VTL W=360n L=50n
MM158 r7_wl Dbar net0161 gnd! NMOS_VTL W=360n L=50n
MM159 net0161 r7_btlb gnd! gnd! NMOS_VTL W=360n L=50n
MM160 r7_wl D net0170 gnd! NMOS_VTL W=360n L=50n
MM133 net0124 r4_btlb gnd! gnd! NMOS_VTL W=360n L=50n
MM151 r4_wl D net0128 gnd! NMOS_VTL W=360n L=50n
MM150 net0128 r4_btl gnd! gnd! NMOS_VTL W=360n L=50n
MM132 r4_wl Dbar net0124 gnd! NMOS_VTL W=360n L=50n
MM131 r3_wl Dbar net0117 gnd! NMOS_VTL W=360n L=50n
MM146 net0163 r6_btl gnd! gnd! NMOS_VTL W=360n L=50n
MM41 Dbar w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n
MM130 net0117 r3_btlb gnd! gnd! NMOS_VTL W=360n L=50n
MM149 net0167 r5_btl gnd! gnd! NMOS_VTL W=360n L=50n
MM38 w3_btl w3_wl D gnd! NMOS_VTL W=90n L=50n
MM148 r5_wl D net0167 gnd! NMOS_VTL W=360n L=50n
MM52 w4_btl w4_wl D gnd! NMOS_VTL W=90n L=50n
MM53 Dbar w4_wl w4_btlb gnd! NMOS_VTL W=90n L=50n
MM54 w5_btl w5_wl D gnd! NMOS_VTL W=90n L=50n
MM55 Dbar w5_wl w5_btlb gnd! NMOS_VTL W=90n L=50n
MM43 Dbar w3_wl w3_btlb gnd! NMOS_VTL W=90n L=50n
MM42 Dbar w2_wl w2_btlb gnd! NMOS_VTL W=90n L=50n
MM40 w1_btl w1_wl D gnd! NMOS_VTL W=90n L=50n
MM39 w2_btl w2_wl D gnd! NMOS_VTL W=90n L=50n
MM153 net0177 r3_btl gnd! gnd! NMOS_VTL W=360n L=50n
MM152 r3_wl D net0177 gnd! NMOS_VTL W=360n L=50n
MM162 Dbar w7_wl w7_btlb gnd! NMOS_VTL W=90n L=50n
MM147 r6_wl D net0163 gnd! NMOS_VTL W=360n L=50n
MM58 Dbar w6_wl w6_btlb gnd! NMOS_VTL W=90n L=50n
MM59 w6_btl w6_wl D gnd! NMOS_VTL W=90n L=50n
MM1 D Dbar gnd! gnd! NMOS_VTL W=90n L=50n
MM0 gnd! D Dbar gnd! NMOS_VTL W=90n L=50n
MM3 vdd! D Dbar vdd! PMOS_VTL W=180n L=50n
MM2 D Dbar vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

